Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:
___ year old man ___ chronic back pain, RnY GB ___, p/w 2 days
RLQ pain and mild diarrhea. He initially developed RLQ pain 2
days ago along with a brief episode of watery diarrhea. He 
states
that the pain made it difficult to sleep, so he presented to an
OSH. There a CT A/P showed stranding and a pocket of air 
adjacent
to the right colon. He denies previous episodes of
diverticulitis, and reports a colonoscopy within the last year
was "clean", although his previous colonoscopy found several
polyps that were removed. He was transferred to ___ for 
further
care. 

Upon initial assessment by colorectal surgery, Mr. ___ denies
fever, chills, nausea, vomiting, chest pain, or shortness of
breath. He endorses urinary urgency, anorexia, and RLQ pain. 

 
Past Medical History:
Past Medical History:
-Chronic back pain
-OSA
-Morbid obesity
-HTN

Past Surgical History:
-RnY GB ___
-3 operations for back pain
-"ulcer surgery"

 
Social History:
___
Family History:
Family History:
-Sister recently died of breast cancer
 
Physical Exam:
Admission

Physical Exam:
Vitals:
97.2F, 70, 141/89, 18, 98%RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR 
PULM: No respiratory distress
ABD: Tender RLQ without generalized peritoneal signs, rebound, 
or
guarding. 
RECTAL: Deferred 
EXT: No ___ edema, ___ warm and well perfused
TLD: None 

Discharge
97.8 129 / 80 68 18 96 RA 
GEN: WD, WN in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR
PULM: no respiratory distress
ABD: Soft, mildly tender to palpation in RLQ, nondistended
EXT: WWP
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect

 
Pertinent Results:
Admission:

___ 11:15AM BLOOD WBC-23.0* RBC-4.69 Hgb-14.1 Hct-44.3 
MCV-95 MCH-30.1 MCHC-31.8* RDW-15.2 RDWSD-52.5* Plt ___
___ 11:15AM BLOOD Neuts-84.5* Lymphs-8.5* Monos-6.1 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-19.44* AbsLymp-1.95 
AbsMono-1.41* AbsEos-0.01* AbsBaso-0.04
___ 11:15AM BLOOD ___ PTT-27.7 ___
___ 11:15AM BLOOD Glucose-89 UreaN-10 Creat-0.7 Na-144 
K-4.1 Cl-105 HCO3-26 AnGap-13

Discharge

___ 06:50AM BLOOD WBC-12.8* RBC-4.29* Hgb-13.1* Hct-40.0 
MCV-93 MCH-30.5 MCHC-32.8 RDW-14.9 RDWSD-51.2* Plt ___
___ 06:25AM BLOOD Glucose-74 UreaN-13 Creat-0.6 Na-143 
K-4.6 Cl-104 HCO3-26 AnGap-13
___ 06:25AM BLOOD Calcium-10.6* Phos-2.7 Mg-2.1
 
Brief Hospital Course:
Mr. ___ presented to the hospital complaining of 2 days
RLQ pain and mild diarrhea. A diagnosis of diverticulitis was 
done. He was treated with antibiotics, bowel rest and IV fluids. 

Neuro: Pain was well controlled.
CV: Vital signs were routinely monitored during the patient's 
length of stay. 
Pulm: The patient was encouraged to ambulate, sit and get out of 
bed. 
GI: The patient was initially kept NPO. The patient was later 
advanced to and tolerated a regular diet at time of discharge.
GU: Urine output was monitored as indicated. 
ID: The patient's vital signs were monitored for signs of 
infection and fever. The patient was started on antibiotics as 
indicated.
Heme: The patient had blood levels checked post operatively 
during the hospital course to monitor for signs of bleeding. The 
patient had vital signs, including heart rate and blood 
pressure, monitored throughout the hospital stay.
On ___, the patient was discharged to home. At discharge, 
he/she was tolerating a regular diet, passing flatus, stooling, 
voiding, and ambulating independently. He will follow-up in the 
clinic in ___ weeks. This information was communicated to the 
patient directly prior to discharge.
Include in Brief Hospital Course for Every Patient and check of 
boxes that apply:
Post-Surgical Complications During Inpatient Admission:
[ ] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[x] None
Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehab hospital disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[x] No social factors contributing in delay of discharge.
TRANSIOTIONAL ISSUES
[]Continue metronidazole and ciprofloxacin until ___
[]Please continue a low residual and low fiber diet
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Gabapentin 600 mg PO TID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg ___ 
tablet(s) by mouth Every 8 hours Disp #*45 Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Every 12 hours 
Disp #*25 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth Every 8 hours Disp 
#*38 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 4 hours Disp #*15 
Tablet Refills:*0 
5.  Atenolol 25 mg PO DAILY  
6.  Gabapentin 600 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for a diverticulitis. You were 
given bowel rest, intravenous fluids and antibiotics. Your 
inflammation has subsequently resolved after conservative 
management. You have tolerated a regular diet, are passing gas 
and your pain is controlled with pain medications by mouth. You 
may return home to finish your recovery.
If you have any of the following symptoms please call the office 
for advice or go to the emergency room if severe: increasing 
abdominal distension, increasing abdominal pain, nausea, 
vomiting, inability to tolerate food or liquids, prolonged loose 
stool, or extended constipation.

Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities.

Good luck!

 
Followup Instructions:
___